### PR TITLE
[Merged by Bors] - feat(Data/Matroid/Minor): contraction API

### PR DESCRIPTION
**Pull request by apnelson1**
We give API for the interaction of matroid contraction with circuits, loops/coloops, closure and finiteness.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Matroid/Minor/Basic.lean
Comment (b-mehta) [inline Mathlib/Data/Matroid/Minor/Basic.lean:1]: This is a pretty big chunk of lemmas, can we add some sections to split them up? On a brief look, they seem already organised into
* relate coindep and minors
* relate indep and minors
* relate basis and minors
etc. 
So it seems reasonable to have sections coindep, indep, basis, etc. And then can I request that you split the PR into half, along one of these boundaries, into two PRs which should be easier to review!

File: Mathlib/Data/Matroid/Minor/Basic.lean [hunk 1]
```diff
@@ -534,6 +534,187 @@ lemma Dep.of_contract (h : (M ／ C).Dep X) (hC : C ⊆ M.E := by aesop_mat) : M
...
+    (M ／ C).Spanning X ↔ M.Spanning (X ∪ C) ∧ Disjoint X C := by
+  rw [spanning_iff, contract_closure_eq, contract_ground, spanning_iff, union_subset_iff,
+    subset_diff, ← and_assoc, and_congr_left_iff, and_comm (a := X ⊆ _), ← and_assoc,
+    and_congr_left_iff]
+  refine fun hdj hX ↦ ⟨fun h ↦ ⟨?_, hC⟩, fun h ↦ by simp [h]⟩
+  rwa [← union_diff_cancel (M.subset_closure_of_subset' subset_union_right hC), h,
+    union_diff_cancel]
+
+/-- A version of `Matroid.contract_spanning_iff` without the supportedness hypothesis. -/
+lemma contract_spanning_iff' :(M ／ C).Spanning X ↔ M.Spanning (X ∪ (C ∩ M.E)) ∧ Disjoint X C := by
```
Comment (b-mehta) [inline Mathlib/Data/Matroid/Minor/Basic.lean:638]:
```suggestion
lemma contract_spanning_iff' : (M ／ C).Spanning X ↔ M.Spanning (X ∪ (C ∩ M.E)) ∧ Disjoint X C := by
```

File: Mathlib/Data/Matroid/Minor/Basic.lean [hunk 2]
```diff
@@ -534,6 +534,187 @@ lemma Dep.of_contract (h : (M ／ C).Dep X) (hC : C ⊆ M.E := by aesop_mat) : M
...
+lemma IsBasis.diff_subset_loops_contract (hIX : M.IsBasis I X) : X \ I ⊆ (M ／ I).loops := by
+  rw [diff_subset_iff, contract_loops_eq, union_diff_self,
+    union_eq_self_of_subset_left (M.subset_closure I)]
+  exact hIX.subset_closure
+
+/-! ### Closure -/
+
+/-- Contracting the closure of a set is the same as contracting the set,
+and then deleting the rest of its elements. -/
+lemma contract_closure_eq_contract_delete (M : Matroid α) (C : Set α) :
```
Comment (b-mehta) [inline Mathlib/Data/Matroid/Minor/Basic.lean:608]: Just checking it's intentional that M and C are explicit in this lemma and the next, since they're not in most of the lemmas after this one

File: Mathlib/Data/Matroid/Loop.lean [hunk 3]
```diff
@@ -248,6 +248,10 @@ lemma freeOn_not_isLoop (E : Set α) (e : α) : ¬ (freeOn E).IsLoop e := by
 lemma uniqueBaseOn_isLoop_iff {I E : Set α} : (uniqueBaseOn I E).IsLoop e ↔ e ∈ E \ I := by
   simp [isLoop_iff, loops]
 
+lemma eq_loopyOn_iff_loops_eq {E : Set α} : M = loopyOn E ↔ M.loops = E ∧ M.E = E :=
+  ⟨fun h ↦ by simp [h, loops],
+  fun ⟨h,h'⟩ ↦ by rw [← h', ← closure_empty_eq_ground_iff, ← loops, h, h']⟩
```
Comment (b-mehta) [inline Mathlib/Data/Matroid/Loop.lean:253]:
```suggestion
  fun ⟨h, h'⟩ ↦ by rw [← h', ← closure_empty_eq_ground_iff, ← loops, h, h']⟩
```

File: Mathlib/Data/Matroid/Minor/Basic.lean [hunk 4]
```diff
@@ -534,6 +534,187 @@ lemma Dep.of_contract (h : (M ／ C).Dep X) (hC : C ⊆ M.E := by aesop_mat) : M
...
+  rw [← dual_delete_dual]
+  infer_instance
+
+instance contract_rankFinite [RankFinite M] : RankFinite (M ／ C) :=
+  let ⟨B, hB⟩ := (M ／ C).exists_isBase
+  ⟨B, hB, hB.indep.of_contract.finite⟩
+
+instance contract_finitary [Finitary M] : Finitary (M ／ C) := by
+  obtain ⟨J, hJ⟩ := M.exists_isBasis' C
+  suffices h : (M ／ J).Finitary by
```
Comment (b-mehta) [inline Mathlib/Data/Matroid/Minor/Basic.lean:549]:
```suggestion
  suffices (M ／ J).Finitary by
```
untested, but I think you don't use `h` by name?

**Review by b-mehta — APPROVED** [review]
Stylistic comments only; this looks very nice!

bors d+

File: Mathlib/Data/Matroid/Minor/Basic.lean (hunk 2 above)
Comment (apnelson1) [reply Mathlib/Data/Matroid/Minor/Basic.lean:608]: Yes it is - in other cases they can be inferred.
